US04820715
4-Amino-5-chloro-2-(cyclohexanon-2-yl)oxy-N-[2-(diethylamino)ethyl]benzamide
A suspension of 4-amino-5-chloro-N-[2-(diethylamino)ethyl]-2-hydroxybenzamide hydrochloride (6.4 g, 20 mmoles) and potassium carbonate (13.8 g, 0.1 mole) in DMF (34 ml) and 2-chlorocyclohexanone (3.8 g, 28.6 mmoles) was stirred for 4 days, followed by partition between water and methylene chloride. The organic phase was washed well with water, dried and concentrated. The residue was chromatographed on deactivated on deactivated silica using methylene chloride (100), methanol (4), ammonia (0.5) as the solvent system. The appropriate fractions were combined and further purified by low pressure liquid chromatography to give 1.0 g of the title compound as a colorless foam. The NMR spectrum (90 MHz) in CDCl3 gave the following resonances: δ 8.4 (bs, 1H); 8.16 (s, 1H); 6.14 (s, 1H); 4.7 (m, 1H); 4.3 (s, 2H); 3.56 (q, J=7.2 Hz, 2H); 2.62 (m, 6H); 2.3-1.4 (m, 8H); 1.04 (t, J=7.2 Hz, 6H).

reactant | 4-amino-5-chloro-N-[2-(diethylamino)ethyl]-2-hydroxybenzamide hydrochloride | 20 mmoles, 6.4 g | Cl.NC1=CC(=C(C(=O)NCCN(CC)CC)C=C1Cl)O
reactant | potassium carbonate | 0.1 mole, 13.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chlorocyclohexanone | 28.6 mmoles, 3.8 g | ClC1C(CCCC1)=O | C6H9ClO
solvent | DMF | 34 ml | CN(C)C=O | C3H7NO
product | 4-Amino-5-chloro-2-(cyclohexanon-2-yl)oxy-N-[2-(diethylamino)ethyl]benzamide | 1.0 g | NC1=CC(=C(C(=O)NCCN(CC)CC)C=C1Cl)OC1C(CCCC1)=O | C19H28ClN3O3
